*  File     : high-temperature_triacs.lib 
*  Revision : 6.0            
*  Date     : 26/01/2021 

***************************************************************************
* 				High Temperature Junction TRIACs PSpice Models            *
***************************************************************************
* Note :
*
*	This High Temperature Junction (High Tj) TRIAC model simulates:
*	-Igt (the same for all quadrants) MAX of the specification
*   -Il  (the same for all quadrants) Typ of the specification
*   -Ih  (the same for both polarity) Typ of the specification
*   -VDRM
*   -VRRM
*   -(dI/dt)c and (dV/dt)c parameters are simulated only if those
*    constraints exceed very highly the specified limits.
*   -Power dissipation is realistic and correspond to a typical TRIAC
*
*   All these parameters are constant, and don't vary neither with 
*   temperature nor other parameters.
*    
*   All High Tj TRIACs are snubberless TRIACs (STANDARD = 0).
*   The "STANDARD" parameter maintains or suppress the triggering possibility of 
*   the TRIAC in the fourth quadrant, and has absolutely NO EFFECT on other  
*   parameters.  
*
*   For a correct triac behavior, the "Maximum step size" must be below 
*   or equal 20µs.
*
*
*
*$
.subckt Triac_ST A K G PARAMS:
+ Vdrm=400v     
+ Igt=20ma
+ Ih=6ma        
+ Rt=0.01
+ Standard=1
*
* Vdrm : Repetitive forward off-state voltage
* Ih   : Holding current 
* Igt  : Gate trigger current 
* Rt   : Dynamic on-state resistance
* Standard : Differenciation between Snubberless and Standard TRIACs
* (Standard=0 => Snubberless TRIACs, Standard=1 => Standard TRIACs)
*
*****************
* Power circuit *
*****************
*
****************
*Switch circuit*
****************
* Q1 & Q2 Conduction
S_S3           A Plip1 positive 0 Smain
*RS_S3         positive 0 1G
D_DAK1         Plip1 Plip2 Dak 
R_Rlip         Plip1 Plip2  1k
V_Viak         Plip2 K DC 0 AC 0 
*
* Q3 & Q4 Conduction
S_S4           A Plin1 negative 0 Smain
*RS_S4         negative 0 1G
D_DKA1         Plin2 Plin1 Dak 
R_Rlin         Plin1 Plin2  1k 
V_Vika         K Plin2 DC 0 AC 0  
**************
*Gate circuit*
**************
R_Rgk          G K  10G  
D_DGKi         Pg2 G Dgk 
D_DGKd         G Pg2 Dgk 
V_Vig          Pg2 K DC 0 AC 0 
R_Rlig         G Pg2  1k  
*******************
*Interface circuit*
*******************
* positive pilot
R_Rp              Controlp positive  2.2  
C_Cp              0 positive  1u 
E_IF15OR3         Controlp 0 VALUE {IF(  ( (V(CMDIG)>0.5) | (V(CMDILIH)>0.5) |
+ (V(CMDVdrm)>0.5) ),400,0 )}
* 
* negative pilot
R_Rn              Controln negative  2.2   
C_Cn              0 negative  1u  
E_IF14OR3         Controln 0 VALUE {IF(  ( (V(CMDIG)>0.5) | (V(CMDILIHN)>0.5) | 
+ (V(CMDVdrm)>0.5) ),400,0 )}
*
* 
******************
* Pilots circuit *
******************
******************
* Pilot Gate     *
******************
E_IF1IG                inIG 0 VALUE {IF(  ( ABS(I(V_Vig)) ) > (Igt-1u) ,1,0 )}
E_MULT2MULT            CMDIG 0 VALUE {V(Q4)*V(inIG)}
E_IF2Quadrant4         Q4 0 VALUE 
+ {IF(((I(V_Vig)>(Igt-0.000001))&((V(A)-V(K))<0)&(Standard==0)),0,1)}
*
******************
* Pilot IHIL     *
******************
*
E_IF10IL           inIL 0 VALUE {IF( ((I(V_Viak))>(Ih/2)),1,0 )}
E_IF5IH            inIH 0 VALUE {IF( ((I(V_Viak))>(Ih/3)),1,0 )} 
*
* Flip_flop IHIL
E_IF6DIHIL         SDIHIL 0 VALUE {IF(
+ (V(inIL)*V(inIH)+V(inIH)*(1-V(inIL))*(V(CMDILIH)) )>0.5,1,0)}
C_CIHIL            CMDILIH 0  1n  
R_RIHIL            SDIHIL CMDILIH  1K  
R_RIHIL2           CMDILIH 0  100Meg  
******************
* Pilot IHILN    *
******************
*
E_IF11ILn          inILn 0 VALUE {IF( ((I(V_Vika))>(Ih/2)),1,0 )}
E_IF3IHn           inIHn 0 VALUE {IF( ((I(V_Vika))>(Ih/3)),1,0 )} 
* Flip_flop IHILn
E_IF4DIHILN         SDIHILN 0 VALUE {IF(
+ (V(inILn)*V(inIHn)+V(inIHn)*(1-V(inILn))*(V(CMDILIHN)) )>0.5,1,0)}
C_CIHILn            CMDILIHN 0  1n  
R_RIHILn            SDIHILN CMDILIHN  1K  
R_RIHILn2           CMDILIHN 0  100Meg  
******************
* Pilot VDRM     *
******************
E_IF8Vdrm           inVdrm 0 VALUE {IF( (ABS(V(A)-V(K))>(Vdrm*1.3)),1,0 )}
E_IF9IHVDRM         inIhVdrm 0 VALUE {IF( (I(V_Viak)>(Vdrm*1.3)/1.2meg)|
+  (I(V_Vika)>(Vdrm*1.3)/1.2meg),1,0)}
* Flip_flop VDRM
E_IF7DVDRM          SDVDRM 0 VALUE {IF(
+ (V(inVdrm)+(1-V(inVdrm))*V(inIhVdrm)*V(CMDVdrm) )>0.5,1,0)}
C_CVdrm             CMDVdrm 0  1n  
R_RVdrm             SDVDRM CMDVdrm  100  
R_RVdrm2            CMDVdrm 0  100Meg  
****************
* Switch Model *
****************
*.MODEL Smain VSWITCH Roff=1.2meg Ron={Rt} Voff=0 Von=100
.MODEL Smain SW Roff=1.2meg Ron={Rt} Vh=50 Vt=50
****************
* Diodes Model *
****************
.MODEL  Dak D( Is=3E-12 Cjo=5pf) 
.MODEL  Dgk D( Is=1E-16 Cjo=50pf Rs=5) 
.ends 
*
*********************************************************************
* 				Snubberless & High Tj TRIACs definition   		 			    *    
*********************************************************************
*
*$
.subckt T3035H-6G A K G
X1 A K G Triac_ST params:
+ Vdrm=600v
+ Igt=35ma
+ Ih=60ma
+ Rt=0.015
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T1235H-8T A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=35ma
+ Rt=0.032
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T1235H-8I A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=35ma
+ Rt=0.032
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T1235H-8G A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=35ma
+ Rt=0.032
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T835H-8T A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=35ma
+ Rt=0.045
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T835H-8I A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=35ma
+ Rt=0.045
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T835H-8G A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=35ma
+ Rt=0.045
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T3050H-6G A K G
X1 A K G Triac_ST params:
+ Vdrm=600v
+ Igt=50ma
+ Ih=75ma
+ Rt=0.015
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T3035H-8T A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=60ma
+ Rt=0.016
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T3035H-8I A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=60ma
+ Rt=0.016
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T3035H-8G A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=60ma
+ Rt=0.016
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T3050H-6G A K G
X1 A K G Triac_ST params:
+ Vdrm=600v
+ Igt=50ma
+ Ih=75ma
+ Rt=0.015
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T2050H-6G A K G
X1 A K G Triac_ST params:
+ Vdrm=600v
+ Igt=50ma
+ Ih=75ma
+ Rt=0.019
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T2035H-8T A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=35ma
+ Rt=0.019
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T2035H-8I A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=35ma
+ Rt=0.019
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T2035H-8G A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=35ma
+ Rt=0.019
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T1635H-8T A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=35ma
+ Rt=0.023
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T1635H-8I A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=35ma
+ Rt=0.023
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T1635H-8G A K G
X1 A K G Triac_ST params:
+ Vdrm=800v
+ Igt=35ma
+ Ih=35ma
+ Rt=0.023
+ Standard=0
* 2021 / ST / Rev 0
.ends
*$
.subckt T410H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=10ma
+ Ih=25ma        
+ Rt=0.08
+ Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T610H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=10ma
+ Ih=25ma        
+ Rt=0.062
+ Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T810H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=10ma
+ Ih=25ma        
+ Rt=0.055
+ Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T835H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=35ma
+ Ih=35ma        
+ Rt=0.052
+ Standard=0
* 2007 / ST / Rev 0
.ends
*$
.subckt T850H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=50ma
+ Ih=75ma        
+ Rt=0.052
+ Standard=0
* 2007 / ST / Rev 0
.ends
*$
.subckt T1010H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=10ma
+ Ih=25ma        
+ Rt=0.041
+ Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T1035H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=35ma
+ Ih=35ma        
+ Rt=0.034
+ Standard=0
* 2007 / ST / Rev 0
.ends
*$
.subckt T1050H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=50ma
+ Ih=75ma        
+ Rt=0.034
+ Standard=0
* 2007 / ST / Rev 0
.ends
*$
.subckt T1235H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=35ma
+ Ih=35ma        
+ Rt=0.030
+ Standard=0
* 2007 / ST / Rev 0
.ends
*$
.subckt T1250H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=50ma
+ Ih=75ma        
+ Rt=0.030
+ Standard=0
* 2007 / ST / Rev 0
.ends
*$
.subckt T1610H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=10ma
+ Ih=15ma        
+ Rt=0.022
+ Standard=0
* 2014 / ST / Rev 0
.ends
*$
.subckt T1635H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=35ma
+ Ih=35ma        
+ Rt=0.023
+ Standard=0
* 2007 / ST / Rev 0
.ends
*$
.subckt T1650H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=50ma
+ Ih=75ma        
+ Rt=0.023
+ Standard=0
* 2007 / ST / Rev 0
.ends
*$
.subckt T2035H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=35ma
+ Ih=35ma        
+ Rt=0.019
+ Standard=0
* 2007 / ST / Rev 0
.ends
*$
.subckt T2050H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=50ma
+ Ih=75ma        
+ Rt=0.019
+ Standard=0
* 2007 / ST / Rev 0
.ends
*$
.subckt T3050H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=50ma
+ Ih=75ma        
+ Rt=0.015
+ Standard=0
* 2010 / ST / Rev 0
.ends
*$
.subckt T3035H-6 A K G
X1 A K G Triac_ST params:
+ Vdrm=600v     
+ Igt=35ma
+ Ih=60ma        
+ Rt=0.015
+ Standard=0
* 2010 / ST / Rev 0
.ends
*$


